US04700008
Synthesis of 4,8-dimethylbicyclo[3.3.1]nona-2-yl methyl ether [IB']
To a solution of 1 g (5.6 mmol) of 4,8-dimethylbicyclo[3.3.1]nona-7-en-2-yl methyl ether [IB] in 10 ml of ethanol was added 0.1 g of 5% of Pd/C and the resulting mixture was heated with stirring at a hydrogen pressure of 20 atm and a reaction temperature of 70° C. for 6 hours. After cooling, the Pd/C was filtered off and the ethanol was distilled off under reduced pressure. The residue was subjected to column chromatography and eluate with toluene gave 0.95 g of the title compound, which had a camphor-like smell.

reactant | 4,8-dimethylbicyclo[3.3.1]nona-7-en-2-yl methyl ether | 5.6 mmol, 1 g | COC1C2C(=CCC(C(C1)C)C2)C | C12H20O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | nona-2-yl methyl ether | 0.95 g | COC(C)CCCCCCC | C10H22O
